US05246948
To a solution of 7.27 g (28.1 mmol) 4-[3-(N-benzylamino)propylthio)pyridine and 4.70 ml (33.7 mmol) of triethylamine in 150 ml of methylene chloride, 4.76 ml (33.7 mmol) of trifluoroacetic anhydride was added under ice-cooling with stirring. The mixture was stirred at room temperature for 30 minutes. The reaction mixture was washed with a saturated aqueous solution of sodium bicarbonate and water and dried, and then the solvent was distilled off. The residue was purified by column chromatography (eluent: ethyl acetate/hexane=2:1 to 1:1) to obtain 6.04 g of 4-[3-(N-benzyl-N-trifluoroacetylamino)-propylthio]pyridine (yield: 60.7%, yellow oil).

reactant | 4-[3-(N-benzylamino)propylthio)pyridine | 28.1 mmol, 7.27 g | C(C1=CC=CC=C1)NCCCSC1=CC=NC=C1 | C15H18N2S
reactant | triethylamine | 33.7 mmol, 4.70 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 33.7 mmol, 4.76 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | 4-[3-(N-benzyl-N-trifluoroacetylamino)-propylthio]pyridine | 6.04 g, yield: 60.7% | C(C1=CC=CC=C1)N(C(C(F)(F)F)=O)CCCSC1=CC=NC=C1 | C17H17F3N2OS
